US04640703
While cooling with ice, a solution of 9.9 g (0.030 mole) of 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionyl chloride in 30 ml of toluene is added dropwise to a solution of 3.5 g (0.035 mole) of triethylamine and 3.2 g (0.033 mole) of n-butylcyanamine in 40 m of toluene. After 5 hours, the precipitate is removed by filtration and the filtrate is purified by chromatography through silica gel. The eluate is concentrated by evaporation, affording 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid N-n-butyl-N-cyanamide as a yellowish oil. nD25 : 1.5482.

reactant | 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionyl chloride | 0.030 mole, 9.9 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)F | C14H10Cl2FNO3
reactant | triethylamine | 0.035 mole, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | n-butylcyanamine | 0.033 mole, 3.2 g | C(CCC)NC#N | C5H10N2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionic acid N-n-butyl-N-cyanamide | C(CCC)N(C(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1F)Cl)=O)C#N | C19H19ClFN3O3
